US07307165B2
Synthesis of 6-ethyl-2-methylimidazo[1,2-b]pyridazin-3-sulfonamide
6-Ethyl-2-methylimidazo[1,2-b]pyridazine (2.70 g, 16.7 mmol) was dissolved in 1,2-dichloroethane (30 ml), and chlorosulfonic acid (1.27 g, 18.5 mmol) was added thereto under stirring at room temperature, and the mixture was stirred for 5 hours under reflux with heating. Then, the reaction solution was cooled to about 70° C., and triethylamine (2.38 g, 23.5 mmol) was added dropwise thereto over 1 minute. After dropping, the reaction solution was stirred for 20 minutes under reflux with heating. Thereafter, the reaction solution was cooled to about 70° C., and phosphorus oxychloride (3.86 g, 25.2 mmol) was added dropwise thereto over 1 minute. After dropping, the mixture was stirred for 2 hours under reflux with heating. The reaction solution was left to cool to about 50° C., and poured into 50 ml warm water (about 50° C.). The reaction mixture was stirred for 5 minutes, and the organic layer was separated. The aqueous layer was extracted with chloroform (50 ml×2). The organic layers were combined, washed with water, dried over magnesium sulfate, and concentrated. The residues were dissolved in acetonitrile (40 ml), and 14 N ammonia water (7 ml) was added thereto under stirring at room temperature, and the mixture was stirred at room temperature for 2 hours. After the reaction was completed, the reaction solution was poured onto ice-cold water (150 ml) and adjusted to about pH 4 with concentrated hydrochloric acid, to form crystals which were then collected by filtration, washed with water and dried under reduced pressure. Thereafter, the crystals were purified by silica gel column chromatography (chloroform:acetone=9:1→4:1). The title compound was obtained as white crystals. The yield was 1.8 g (44.7%).

reactant | 6-Ethyl-2-methylimidazo[1,2-b]pyridazine | 16.7 mmol, 2.70 g | C(C)C=1C=CC=2N(N1)C=C(N2)C | C9H11N3
reactant | chlorosulfonic acid | 18.5 mmol, 1.27 g | ClS(=O)(=O)O | ClHO3S
reactant | triethylamine | 23.5 mmol, 2.38 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 25.2 mmol, 3.86 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 6-ethyl-2-methylimidazo[1,2-b]pyridazin-3-sulfonamide | C(C)C=1C=CC=2N(N1)C(=C(N2)C)S(=O)(=O)N | C9H12N4O2S
